US07410972B2
5-Bromo-N-(6-chloro-3-methoxy-2-pyrazinyl)-2-thiophenesulphonamide
Prepared by the method of Example 1 from 6-chloro-3-methoxy-2-pyrazinamine and 5-bromothiophenesulphonyl chloride.

reactant | 6-chloro-3-methoxy-2-pyrazinamine | ClC1=CN=C(C(=N1)N)OC | C5H6ClN3O
reactant | 5-bromothiophenesulphonyl chloride | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
product | 5-Bromo-N-(6-chloro-3-methoxy-2-pyrazinyl)-2-thiophenesulphonamide | BrC1=CC=C(S1)S(=O)(=O)NC1=NC(=CN=C1OC)Cl | C9H7BrClN3O3S2
